US07754743B2
Preparation of 5-(2-hydroxy-1-methyl-ethoxy)-3-(4-methanesulfonylphenoxy)-N-(3-methyl-[1,2,4]-thiadiazol-5-yl)-benzamide
The compound of Production Example 89 was obtained as a colorless amorphous substance using 200 mg (0.40 mmol) of the obtained 5-((1S)-2-(t-butyldimethylsiloxy)-1-methyl-ethoxy)-3-(4-methanesulfonyl-phenoxy)-benzoic acid methyl ester and 5-amino-3-methyl-[1,2,4]thiadiazole, by the same method as in Production Example 2, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-((1S)-2-(t-butyldimethylsiloxy)-1-methyl-ethoxy)-3-(4-methanesulfonyl-phenoxy)-benzoic acid methyl ester | 0.40 mmol, 200 mg | COC(C1=CC(=CC(=C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C)OC1=CC=C(C=C1)S(=O)(=O)C)=O | C24H34O7SSi
reactant | 5-amino-3-methyl-[1,2,4]thiadiazole | NC1=NC(=NS1)C | C3H5N3S
product | 5-(2-hydroxy-1-methyl-ethoxy)-3-(4-methanesulfonylphenoxy)-N-(3-methyl-[1,2,4]-thiadiazol-5-yl)-benzamide | OCC(OC=1C=C(C=C(C(=O)NC2=NC(=NS2)C)C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C20H21N3O6S2
